US04880809
In a manner as that described in Example 62, 6,7-dimethoxy-2-naphthoic acid and 1-(3,4,5-trimethoxybenzoyl)piperazine are subjected to amidation to give 1-(6,7-dimethoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzoyl)piperazine. This product is recrystallized from ethyl acetate to give colorless needles, m.p. 224°-226° C.

reactant | 6,7-dimethoxy-2-naphthoic acid | COC=1C=C2C=CC(=CC2=CC1OC)C(=O)O | C13H12O4
reactant | 1-(3,4,5-trimethoxybenzoyl)piperazine | COC=1C=C(C(=O)N2CCNCC2)C=C(C1OC)OC | C14H20N2O4
product | 1-(6,7-dimethoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | COC=1C=C2C=CC(=CC2=CC1OC)C(=O)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C27H30N2O7
